US07576215B2
3-BENZYL-4-(3-{[2-(TRIFLUOROMETHOXY)BENZYL]OXY}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE
This compound was prepared according to the procedure of example 69, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol and (2-trifluoromethoxy-phenyl)-methanol. MS (ESI) m/z 554.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | (2-trifluoromethoxy-phenyl)-methanol | FC(OC1=C(C=CC=C1)CO)(F)F | C8H7F3O2
product | 3-BENZYL-4-(3-{[2-(TRIFLUOROMETHOXY)BENZYL]OXY}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=C(C=CC=C1)OC(F)(F)F)C(F)(F)F | C31H21F6NO2
